US05338857
(2) 3-Phenyl-5- {2-(1-pyrrolidinyl)cyclohexanoyl} isoxazole
Pyrrolidine (5 ml) was added to 0.98 g (3.9 mmol) of 3-phenyl-5-(1-cyclohexenoyl)isoxazole prepared above in the procedure (1). The resultant mixture was stirred at room temperature for 1 hour and then concentrated under reduced pressure. To the concentrate was added diethyl ether and then 10% hydrochloric acid, whereby the reaction product was extracted in a water layer. The water layer was collected, alkalinized with a 10% aqueous solution of sodium hydroxide, and then extracted with dichloromethane. methane. The solvent was distilled off, so that 3-phenyl-5-{2-(1-pyrrolidinyl)cyclohexanoyl} isoxazole was obtained as yellow crystals. Analytical results of the crystals obtained: Yield: 0.44 g (35%). Melting point: 109°-111° C.

reactant | Pyrrolidine | 5 ml | N1CCCC1 | C4H9N
reactant | 3-phenyl-5-(1-cyclohexenoyl)isoxazole | 3.9 mmol, 0.98 g | C1(=CC=CC=C1)C1=NOC(=C1)C(=O)C1=CCCCC1 | C16H15NO2
product | 3-Phenyl-5- {2-(1-pyrrolidinyl)cyclohexanoyl} isoxazole | C1(=CC=CC=C1)C1=NOC(=C1)C(=O)C1C(CCCC1)N1CCCC1 | C20H24N2O2
